US03972927
In the manner of Example 7, ammonia was reacted with 3,5-di-t-butyl-4-hydroxybenzoic acid to produce 3,5-di-t-butyl-4-hydroxybenzamide; melting point 263°-265°C. When tested by the procedure of Example 2, this compound lasted 1000 hours, about 2.5 times as long as the control.

reactant | ammonia | N | H3N
reactant | 3,5-di-t-butyl-4-hydroxybenzoic acid | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
product | 3,5-di-t-butyl-4-hydroxybenzamide | C(C)(C)(C)C=1C=C(C(=O)N)C=C(C1O)C(C)(C)C | C15H23NO2
